US04347185
A solution of 250 mg. of ethyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate in 8 ml. of methanol is treated under an atmosphere of nitrogen, with a solution of 200 mg. of sodium hydroxide in 1 ml. of water, maintaining the reaction mixture at room temperature for 1.5 hours. The methanol is then removed under reduced pressure and the basic solution which remains is diluted with 5 ml. of water and extracted with ether to remove any unsaponifiable product. The aqueous solution is acidified with 10% hydrochloric acid and extracted three times with ethyl acetate. The combined extracts are dried and evaporated to dryness under reduced pressure, and the residue crystallized from ethyl acetate-hexane, to give 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid.

reactant | ethyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2C(=O)OCC)Br | C17H16BrNO3
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2C(=O)O)Br | C15H12BrNO3
